US04261798
Preparation of Hydroxypropyl Methacrylate
Methacrylic acid (1720 kg), p-methoxyphenol (1.3 kg) and commercial chromium octanoate (17.2 kg) were charged to a stirred autoclave and agitated to effect solution. The autoclave was evacuated and the vacuum broken to atmospheric pressure with nitrogen. The autoclave and its contents were heated with stirring to 80° C. Propylene oxide (100 kg) was fed to the autoclave and when it had been established that reaction had commenced further propylene oxide (1116 kg) was added over 21/2 hours. A maximum pressure of 38 psig was reached. The progress of the reaction was monitored by acid number determinations. When the acid number reached 0.2 the autoclave was cooled to 40° C. and excess propylene oxide was removed under vacuum for 30 minutes. Further vacuum degassing was carried out after transfer to another vessel until the residual propylene oxide content was less than 0.5%. The crude product containing dissolved chromium catalyst was analysed for composition and inhibitor (p-methoxyphenol) content.

reactant | Methacrylic acid | 1720 kg | C(C(=C)C)(=O)O | C4H6O2
reactant | p-methoxyphenol | 1.3 kg | COC1=CC=C(C=C1)O | C7H8O2
reactant | propylene oxide | 1116 kg | C1C(C)O1 | C3H6O
catalyst | chromium octanoate | 17.2 kg | C(CCCCCCC)(=O)[O-].[Cr+3].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-]
product | Hydroxypropyl Methacrylate | C(C(=C)C)(=O)OCCCO | C7H12O3
